US07731985B2
Preparation of 4-chloro-2-isopropyl-6-methylpyrimidine
76.1 g of 2-isopropyl-6-methyl-4-pyrimidinol [2814-20-2] (500 mmol) are dissolved in 300 ml of toluene at 90° C. 80.5 g of phosphorus oxychloride (525 mmol) are added dropwise thereto at from 90 to 103° C., and the reaction mixture is heated at 110° C. for 2 hours. After cooling to 20° C., the reaction mixture is adjusted to pH 8 using 4M sodium hydroxide solution, with cooling. The aqueous phase is separated off and extracted with 100 ml of toluene. The combined organic phases are washed three times with 100 ml of water each time and dried at RT under 2 mbar. 89.7 g (105%; contains toluene) are obtained.

reactant | 2-isopropyl-6-methyl-4-pyrimidinol | 500 mmol, 76.1 g | C(C)(C)C1=NC(=CC(=N1)O)C | C8H12N2O
reactant | phosphorus oxychloride | 525 mmol, 80.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 4M | [OH-].[Na+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-isopropyl-6-methylpyrimidine | ClC1=NC(=NC(=C1)C)C(C)C | C8H11ClN2
